US09403798B2
tert-Butyl 3,4-dihydroxy-4-(6-methoxypyridin-2-yl)piperidine-1-carboxylate
To an acetone (10 mL)-water (1.0 mL) solution of tert-butyl 6-methoxy-5′,6′-dihydro-[2,4′-bipyridine]-1′(2′H)-carboxylate (1.00 g, 3.44 mmol) synthesized in Reference Synthesis Example 184, supported osmium tetroxide (276 mg, 0.102 mmol, osmium content 9.4%, manufactured by Wako Pure Chemical Industries, Ltd.) and N-methylmorpholine-N-oxide (1.20 g, 10.3 mmol) were added and the resultant mixture was stirred at room temperature for 6 days. After completion of the reaction, the reaction solution was filtered and ethyl acetate was added to the filtrate, followed by washing the resultant mixture with saturated ammonium chloride aqueous solution and brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the title compound (1.01 g, yield 91%).

reactant | acetone | 10 mL | CC(=O)C | C3H6O
reactant | tert-butyl 6-methoxy-5′,6′-dihydro-[2,4′-bipyridine]-1′(2′H)-carboxylate | 3.44 mmol, 1.00 g | COC1=CC=CC(=N1)C1=CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O3
reactant | N-methylmorpholine-N-oxide | 10.3 mmol, 1.20 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 1.0 mL | O | H2O
catalyst | osmium tetroxide | 0.102 mmol, 276 mg | [Os](=O)(=O)(=O)=O
product | tert-Butyl 3,4-dihydroxy-4-(6-methoxypyridin-2-yl)piperidine-1-carboxylate | 1.01 g, yield 91% | OC1CN(CCC1(C1=NC(=CC=C1)OC)O)C(=O)OC(C)(C)C | C16H24N2O5
